### PR TITLE
feat: Lehmer's conjecture on ramanujan's tau function

### PR DESCRIPTION
**Pull request by seewoo5**
Wikipedia: [link](https://en.wikipedia.org/wiki/Ramanujan_tau_function#Conjectures_on_the_tau_function)
Also updated docstrings.

### CODE REVIEW

File: FormalConjectures/Wikipedia/RamanujanTau.lean [hunk 1]
```diff
@@ -17,9 +17,17 @@ limitations under the License.
...
-# Ramanujan-Petersson Conjecture
+# Ramanujan τ-function
 
-*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Ramanujan%E2%80%93Petersson_conjecture)
+There are two conjectures related to the Ramanujan τ-function:
+
+- Ramanujan-Petersson conjecture: For every prime `p`, the absolute value of the Ramanujan τ-function at `p` is bounded by `2 * p^(11/2)`.
+- Lehmer's conjecture: The Ramanujan τ-function is never zero for any positive integer `n`.
+
+*Reference:*
```
Comment (mo271) [inline FormalConjectures/Wikipedia/RamanujanTau.lean]:
```suggestion
*References:*
```

File: FormalConjectures/Wikipedia/RamanujanTau.lean [hunk 2]
```diff
@@ -17,9 +17,17 @@ limitations under the License.
 import FormalConjectures.Util.ProblemImports
 
 /-!
-# Ramanujan-Petersson Conjecture
+# Ramanujan τ-function
 
-*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Ramanujan%E2%80%93Petersson_conjecture)
+There are two conjectures related to the Ramanujan τ-function:
+
+- Ramanujan-Petersson conjecture: For every prime `p`, the absolute value of the Ramanujan τ-function at `p` is bounded by `2 * p^(11/2)`.
```
Comment (mo271) [inline FormalConjectures/Wikipedia/RamanujanTau.lean]:
```suggestion
- Ramanujan-Petersson conjecture: For every prime `p`, the absolute value of the
Ramanujan τ-function at `p` is bounded by `2 * p^(11/2)`.
```

Comment (mo271) [reply FormalConjectures/Wikipedia/RamanujanTau.lean]: (trying to stick with 100 characters limit, even in the doc comments..)

**Review by mo271 — APPROVED** [review]

File: FormalConjectures/Wikipedia/RamanujanTau.lean [hunk 3]
```diff
@@ -21,10 +21,11 @@ import FormalConjectures.Util.ProblemImports
 
 There are two conjectures related to the Ramanujan τ-function:
 
-- Ramanujan-Petersson conjecture: For every prime `p`, the absolute value of the Ramanujan τ-function at `p` is bounded by `2 * p^(11/2)`.
+- Ramanujan-Petersson conjecture: For every prime `p`, the absolute value of the
+Ramanujan τ-function at `p` is bounded by `2 * p^(11/2)`.
```
Comment (b-mehta) [inline FormalConjectures/Wikipedia/RamanujanTau.lean]:
```suggestion
  Ramanujan τ-function at `p` is bounded by `2 * p^(11/2)`.
```

File: FormalConjectures/Wikipedia/RamanujanTau.lean [hunk 4]
```diff
@@ -49,3 +58,7 @@ lemma τ_two : τ 2 = -24 := by
 @[category research solved, AMS 11]
 theorem ramanujan_petersson : ∀ p : ℕ, Prime p → abs (τ p) ≤ 2 * (p : ℝ) ^ ((11 : ℝ) / 2) := by
   sorry
+
+@[category research open, AMS 11]
+theorem lehmer_ramanujan_tau : ∀ n : ℕ+, τ n ≠ 0 := by
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/RamanujanTau.lean]:
```suggestion
theorem lehmer_ramanujan_tau : ∀ n > 0, τ n ≠ 0 := by
```
This avoids a coercion.

**Review by callesonne — COMMENTED** [review]
Small comment:
